US07732626B2
4-(chloromethyl)-7-hydroxy-2H-chromen-2-one
Under ice-cooling, ethyl 4-chloroacetoacetate (14.0 g, 85.0 mmol) was dissolved in concentrated sulfuric acid (30 mL), resorcinol (8.81 g, 80.0 mmol) was added by small portions, and the mixture was stirred at room temperature for 2 hr. The reaction mixture was poured into ice water, and the precipitated solid was collected by filtration, washed with water, and air-dried to give the title compound (14.1 g, yield 84%) as a beige powder.

reactant | ethyl 4-chloroacetoacetate | 85.0 mmol, 14.0 g | ClCC(CC(=O)OCC)=O | C6H9ClO3
reactant | resorcinol | 80.0 mmol, 8.81 g | C1(O)=CC(O)=CC=C1 | C6H6O2
solvent | sulfuric acid | 30 mL | S(O)(O)(=O)=O | H2O4S
product | 4-(chloromethyl)-7-hydroxy-2H-chromen-2-one | 14.1 g, yield 84% | ClCC1=CC(OC2=CC(=CC=C12)O)=O | C10H7ClO3
